US05589476
11.1.3. 1,2,3,4-Tetrahydroquinoxalin-5-amine
25 g (0.104 mol) of 2-[(2,6-diaminophenyl)amino]ethanol dihydrochloride are heated at 160° C. for 3 hours in 300 ml of a 62% hydrobromic acid solution. The reaction mixture is cooled to -20° C. until crystallization takes place and the precipitate obtained is dried, under nitrogen, with a mixture of methanol and ether. It is taken up in water, the pH is adjusted to alkaline with a concentrated sodium hydroxide solution and extraction is carried out with a dichloromethane/ether (50/50) mixture. Drying and evaporation are carried out.

reactant | 2-[(2,6-diaminophenyl)amino]ethanol dihydrochloride | 0.104 mol, 25 g | Cl.Cl.NC1=C(C(=CC=C1)N)NCCO
reactant | hydrobromic acid | Br | BrH
product | 1,2,3,4-Tetrahydroquinoxalin-5-amine | N1CCNC=2C(=CC=CC12)N | C8H11N3
